US04087418
Nα -t-Butoxycarbonyl-O-benzyl-L-seryl-O-benzyl-L-tyrosyl-D-alanyl-L-leucine methyl ester is prepared by deprotecting 11.4 g. (20 mmol) of Nα -t-butoxycarbonyl-O-benzyl-L-tyrosyl-D-alanyl-L-leucine methyl ester with 50 ml. of trifluoroacetic acid in 40 ml. of dichloromethane at 20° C. for 12 minutes. The mixture is evaporated to dryness at 40° C. under reduced pressure and the residue twice taken into dichloromethane and evaporated to dryness followed by drying under high vacuum for 2 hours. The oily product is dissolved in 70 ml. of dimethylformamide and treated at 10° C. with 10 ml. of triethylamine so that a pH of 7 is obtained. Additional triethylamine, 2.8 ml. (20 mmol) is added, followed by 6 g. (20 mmol) of Nα -t-butoxycarbonyl-O-benzyl-L-serine, 2.7 g (20 mmol) of 1-hydroxybenztriazole and (at -5° C.) 4.4. g. of dicyclohexylcarbodiimide. The mixture is slowly stirred to room temperature for two days. The mixture is filtered and the filtrate evaporated at 50° C. under reduced pressure. The residue is dissolved in dichloromethane and filtered. The solution is evaporated to yield an oil which crystallizes from dichloromethane and ether; 10.7 g.; m.p. 67°-71° C.

reactant | Nα -t-butoxycarbonyl-O-benzyl-L-tyrosyl-D-alanyl-L-leucine methyl ester | 20 mmol | COC([C@@H](NC([C@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C)=O)CC(C)C)=O | C31H43N3O7
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | Nα -t-butoxycarbonyl-O-benzyl-L-serine | 20 mmol | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | 1-hydroxybenztriazole | 20 mmol, 2.7 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Nα -t-Butoxycarbonyl-O-benzyl-L-seryl-O-benzyl-L-tyrosyl-D-alanyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)COCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C)=O)CC(C)C)=O | C41H54N4O9
